US06534135B1
Under nitrogen atmosphere, a mixture of 2-hydroxy-3,4-bis-[(S)-2-methyl-butoxy]-benzaldehyde (0.74 9, 2.51 mmol), 5-bromo-1-pentene (0.45 g, 3.02 mmol) and potassium carbonate (0.41 g, 3 mmol) in dry DMF (5 ml) was stirred at 80° C. for 3 h. The cooled reaction mixture was gently poured into HCl 3N (15 ml) and extracted with diethylether (3×20 ml). The combined organic extracts are washed with 30 ml of saturated NaCl solution, dried over magnesium sulphate and evaporated under reduced pressure. The obtained oily residue was chromatographed on silica (diethylether/petroleumether: 1/3) to give 3,4-bis-[(S)-2-methyl-butoxy]-2-(pent-4-enyloxy)-benzaldehyde as a slightly yellow oil (Yield: 0.82 g, 90%).

reactant | 2-hydroxy-3,4-bis-[(S)-2-methyl-butoxy]-benzaldehyde | 2.51 mmol | OC1=C(C=O)C=CC(=C1OC[C@H](CC)C)OC[C@H](CC)C | C17H26O4
reactant | 5-bromo-1-pentene | 3.02 mmol, 0.45 g | BrCCCC=C | C5H9Br
reactant | potassium carbonate | 3 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 3N, 15 ml | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,4-bis-[(S)-2-methyl-butoxy]-2-(pent-4-enyloxy)-benzaldehyde | C[C@H](COC=1C(=C(C=O)C=CC1OC[C@H](CC)C)OCCCC=C)CC | C22H34O4
